US08193164B2
Bis-(4-amino-piperidin-1-yl)-methanone is prepared analogously to 1,3-bis-(4-amino-cyclohexyl)-urea (Intermediate IC), by replacing 4-amino-cyclohexyl)-carbamic acid tert-butyl ester with piperidin-4-yl-carbamic acid tert-butyl ester.

reactant | 1,3-bis-(4-amino-cyclohexyl)-urea | NC1CCC(CC1)NC(=O)NC1CCC(CC1)N | C13H26N4O
reactant | carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | Bis-(4-amino-piperidin-1-yl)-methanone | NC1CCN(CC1)C(=O)N1CCC(CC1)N | C11H22N4O
